US05709820
To a solution of 10.0 g (33.1 mmol) of trans-4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)cyclohexanol in 100 ml of DMF was added dropwise, while stirring the solution at room temperature, a suspension of 1.19 g (49.6 mmol) of NaH in 10 ml of DMF. After completion of the dropwise addition, the reaction mixture was stirred for 2 hours and then the temperature of the reaction mixture was gradually allowed to rise up to about 80° C. and a solution of 5.35 g (39.7 mmol) of 1-bromo-2-butene in 20 ml of DMF was added dropwise. After completion of the dropwise addition, the mixture was heated under reflux at the same temperature for 5 hours. After the reaction solution was allowed to cool down to room temperature, the reaction product was poured into an ice-water and extracted with 500 ml of toluene. The organic layer was washed three times with water, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. A silica gel column chromatography (developing solvent: toluene) of the residue gave 5.96 g of crude 1-(2-butenyloxy)-trans-4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)cyclohexane.

reactant | trans-4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)cyclohexanol | 33.1 mmol, 10.0 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)O | C21H38O
reactant | NaH | 49.6 mmol, 1.19 g | [H-].[Na+]
reactant | 1-bromo-2-butene | 39.7 mmol, 5.35 g | BrCC=CC | C4H7Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(2-butenyloxy)-trans-4-(trans-4-(trans-4-propylcyclohexyl)cyclohexyl)cyclohexane | 5.96 g | C(C=CC)O[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C25H44O
